US07241761B2
(b) 6-Chloro-2-piperazin-1-yl-quinoline hydrochloride
Prepared in analogy to example 1.6 (d) from 4-(6-chloro-quinolin-2-yl)-piperazine-1-carboxylic acid tert.-butyl ester and dioxane saturated with gaseous hydrochloric acid.

reactant | 4-(6-chloro-quinolin-2-yl)-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=C(C=C2C=C1)Cl | C18H22ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Chloro-2-piperazin-1-yl-quinoline hydrochloride | Cl.ClC=1C=C2C=CC(=NC2=CC1)N1CCNCC1 | InChI=1S/C13H14ClN3.ClH/c14-11-2-3-12-10(9-11)1-4-13(16-12)17-7-5-15-6-8-17;/h1-4,9,15H,5-8H2;1H
